US07049312B1
Synthesis of 2-[(4-Hydroxyphenyl)methylene]-2H-1,4-benzoxazin-3(4H)-one
A mixture of 2-[(4-acetoxyphenyl)methylene]-2H-1,4-benzoxazin-3(4H)-one (0.49 g, 0.0016 mol) and NaOH 10% (30 ml) was refluxed for 1 h. The reaction mixture was cooled and acidified with 6N HCl. The precipitated was collected by filtration, then washed with water and dried. The crude product was purified by recrystalization from ethanol.

reactant | 2-[(4-acetoxyphenyl)methylene]-2H-1,4-benzoxazin-3(4H)-one | 0.0016 mol, 0.49 g | C(C)(=O)OC1=CC=C(C=C1)C=C1OC2=C(NC1=O)C=CC=C2 | C17H13NO4
reactant | HCl | 6N | Cl | ClH
solvent | NaOH | 30 ml | [OH-].[Na+]
product | 2-[(4-Hydroxyphenyl)methylene]-2H-1,4-benzoxazin-3(4H)-one | OC1=CC=C(C=C1)C=C1OC2=C(NC1=O)C=CC=C2 | C15H11NO3
